US07906517B2
Ethyl 1-[2-((3,5-bis-trifluoromethyl-benzyl)-{1-[2-(cyclopropylmethyl-propyl-amino)-5-trifluoromethyl-phenyl]-ethyl}-amino)-pyrimidin-5-yl]-piperidine-4-carboxylate (75 mg) is dissolved in ethanol (1 ml), and thereto is added a 2N-aqueous sodium hydroxide solution (148 μl), and the mixture is stirred at room temperature overnight. Thereto are added ethyl acetate and a dilute hydrochloric acid and the mixture is separated, and the organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (chloroform:methanol=1:0→49:1) to give 1-[2-((3,5-bis-trifluoromethyl-benzyl)-{1-[2-(cyclopropylmethyl-propyl-amino)-5-trifluoromethyl-phenyl]-ethyl}-amino)-pyrimidin-5-yl]-piperidine-4-carboxylic acid (54 mg). MS (m/z): 732 [M+H]+

reactant | Ethyl 1-[2-((3,5-bis-trifluoromethyl-benzyl)-{1-[2-(cyclopropylmethyl-propyl-amino)-5-trifluoromethyl-phenyl]-ethyl}-amino)-pyrimidin-5-yl]-piperidine-4-carboxylate | 75 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)N2CCC(CC2)C(=O)OCC)C(C)C2=C(C=CC(=C2)C(F)(F)F)N(CCC)CC2CC2)C=C(C1)C(F)(F)F)(F)F | C37H42F9N5O2
reactant | sodium hydroxide | 148 μl | [OH-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | 1-[2-((3,5-bis-trifluoromethyl-benzyl)-{1-[2-(cyclopropylmethyl-propyl-amino)-5-trifluoromethyl-phenyl]-ethyl}-amino)-pyrimidin-5-yl]-piperidine-4-carboxylic acid | 54 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)N2CCC(CC2)C(=O)O)C(C)C2=C(C=CC(=C2)C(F)(F)F)N(CCC)CC2CC2)C=C(C1)C(F)(F)F)(F)F | C35H38F9N5O2
